US08058300B2
4-phenyl-phenylacetonitrile (VWR scientific, 55.7 g, 289 mmol) was added to a solution of KOH (161.6 g, 2890 mmol) in water (170 mL) and toluene (550 mL) at room temperature. Tetrabutyl ammonium bromide (9.2 g, 29 mmol) followed by 1,2 dibromoethane (64.9 g, 347 mmol) were added and the solution was heated to 65° C. overnight. Reaction complete by TLC (10% EtOAc/hex). The organic layer was extracted 2 times with dilute hydrochloric acid, dried and evaporated to yield 63 g of 1-(biphenyl-4-yl)cyclopropanecarbonitrile.

reactant | 4-phenyl-phenylacetonitrile | 289 mmol, 55.7 g | C1(=CC=CC=C1)C1=CC=C(C=C1)CC#N | C14H11N
reactant | KOH | 2890 mmol, 161.6 g | [OH-].[K+]
reactant | 1,2 dibromoethane | 347 mmol, 64.9 g | BrCCBr | C2H4Br2
reactant | EtOAc | CCOC(=O)C | C4H8O2
solvent | water | 170 mL | O | H2O
solvent | toluene | 550 mL | C1(=CC=CC=C1)C | C7H8
catalyst | Tetrabutyl ammonium bromide | 29 mmol, 9.2 g | [Br-].C(CCC)[N+](CCCC)(CCCC)CCCC
product | 1-(biphenyl-4-yl)cyclopropanecarbonitrile | 63 g | C1(=CC=C(C=C1)C1(CC1)C#N)C1=CC=CC=C1 | C16H13N
